* NMOS diode-connected extraction
.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt
Vg dg 0 dc 0
Xn dg dg 0 0 sky130_fd_pr__nfet_01v8 W=10u L=2u
.dc Vg 0 1.8 0.01
.control
run
let id = -i(Vg)
wrdata nmos_iv.txt id
.endc
.end
